US07071173B2
c) 4-(N-CBz-L-valyloxy)butyric acid iodomethyl ester
4-(N-CBz-L-valyloxy) butyric acid chloromethyl ester (1.54 g, 4 mmole) was dissolved in acetonitrile (15 ml). Sodium iodide (840 mg, 5.6 mmole) was added to the solution. After reaction at 55° C. for 3 hr, the reaction mixture was filtered and the residue was dissolved in methylene chloride (20 ml) and refiltered. The solution was dried and gave the titled product. Yield 1.9 g.

reactant | 4-(N-CBz-L-valyloxy) butyric acid chloromethyl ester | 4 mmole, 1.54 g | ClCOC(CCCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C18H24ClNO6
reactant | Sodium iodide | 5.6 mmole, 840 mg | [I-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-(N-CBz-L-valyloxy)butyric acid iodomethyl ester | ICOC(CCCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C18H24INO6
